Analog Project
*SPICE Netlist generated by Advanced Sim server on 10/5/2025 10:26:20 AM
.options MixedSimGenerated

*Schematic Netlist:
RR1 X1in op1 10K TC1=0 TC2=0
RR2 Y1in op1 10K TC1=0 TC2=0
RR4 out1 op1 10k TC1=0 TC2=0
RR5 out1 op2 10K TC1=0 TC2=0

.SAVE allV
.SAVE allI
.SAVE allP

.PLOT {V(-12)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.TRAN 20.00n 5.000u 0 20.00n
.OP

.END