* C:\Users\CHAMA COMPUTERS\Desktop\Analog Computer Simulation\Analog Subtractor\Subtractor Circuit.asc
X§U1 0 N001 +12IN -12IN N002 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
X§U2 0 N006 +12IN -12IN N007 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
X§U3 N008 N003 +12IN -12IN N004 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R1 N004 N003 22k
R3 N008 N007 22k
R2 N003 N002 22k
R4 0 N008 22k
R5 N002 N001 2.2K
R6 N001 N005 2.2k
R7 N007 N006 2.2k
R8 N006 N009 2.2k
Vcc1 0 -12IN 12
Vcc2 +12IN 0 12
V1 N005 0 SINE(0 2 10)
V2 N009 0 SINE(0 1 10)
.tran 0 1 0
.lib UniversalOpAmp5.lib
.backanno
.end
