* C:\Users\CHAMA COMPUTERS\Desktop\Analog Computer Simulation\Multilier with Gilbert cell\Gilbert cell multiplier.asc
Q1 N014 N018 P001 0 2N3904
Q2 N013 N019 P002 0 2N3904
Q3 N013 N018 P003 0 2N3904
Q4 N014 N019 P004 0 2N3904
Q5 N022 N027 N030 0 2N3904
Q6 N023 N028 N030 0 2N3904
R1 +12IN N014 270
R2 +12IN N013 270
C1 N018 N012 100µ
C2 N027 N025 100µ
R3 N012 0 47
R4 N025 0 47
C3 N019 0 100µ
R5 N020 N019 2.2k
R6 N030 0 8.2K
R7 +12IN N020 4.7k
R8 N020 N018 2.2k
R9 N029 N028 2.2k
R10 N029 N020 3.3k
C4 N020 0 100µ
C5 N029 0 100µ
R11 N029 0 2.2k
R12 N029 N027 2.2k
R13 P001 N022 33
R14 P002 N022 33
R15 P004 N023 33
R16 P003 N023 33
X§U1 0 N011 +12IN -12IN N012 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
X§U2 0 N024 +12IN -12IN N025 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R17 N011 N016 10k
R18 N024 N026 10k
R19 N025 N024 100
R20 N012 N011 100
V3 N016 0 SINE(0 10 500)
V9 N026 0 SINE(0 10 10k)
R21 N001 N013 100k
R22 N002 N014 100k
R23 N003 N004 10k
R24 N004 N017 2.2k
R25 N017 N021 10k
R26 N006 N005 10k
R27 N005 N003 10k
R28 N015 N021 10k
R29 0 N015 10k
X§U3 N015 N005 +12IN -12IN N006 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
X§U4 N001 N004 +12IN -12IN N003 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
X§U5 N002 N017 +12IN -12IN N021 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
X§U6 0 N007 +12IN -12IN N008 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R30 N008 N007 100k
R31 N007 N006 10k
X§U7 0 N009 +12IN -12IN N010 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R32 N010 N009 50k
R33 N009 N008 2.2k
V1 0 -12IN 12
V2 +12IN 0 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\CHAMA COMPUTERS\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1.005 1
.lib UniversalOpAmp5.lib
.backanno
.end
